US04111954
A process of preparing 1-methylpyrrole-2-acetonitrile which comprised the steps of interacting N-methylpyrrole and cyanogen in the presence of hydrogen chloride in an inert organic solvent to form an α-imino-1-methypyrrole-2-acetonitrile HCl salt, treating the latter salt with at least an equivalent amount of an acid-neutralizing base, and reducing the thus-obtained α-imino-1-methylpyrrole-2-acetonitrile to said 1-methylpyrrole-2-acetonitrile by the action of hydrogen sulfide as the reducing agent in an inert organic solvent at a temperature from about -20° to about 50° C and a pressure from atmospheric pressure to about 60 p.s.i. pressure.

reactant | 1-methylpyrrole-2-acetonitrile | CN1C(=CC=C1)CC#N | C7H8N2
reactant | N-methylpyrrole | CN1C=CC=C1 | C5H7N
reactant | cyanogen | N#CC#N | C2N2
reactant | hydrogen chloride | Cl | ClH
product | α-imino-1-methypyrrole-2-acetonitrile HCl salt | Cl.N=C(C#N)C=1N(C=CC1)C | InChI=1S/C7H7N3.ClH/c1-10-4-2-3-7(10)6(9)5-8;/h2-4,9H,1H3;1H
